US07935830B2
Step F. 1,2,3,3a,8,8a-Hexahydroindeno[1,2-c]pyrrole
N-tert-Butylcarbamate-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole (110 mg, 0.42 mmol) was dissolved in a HCl solution (5 mL, 4.0 M solution in 1,4-dioxane) and stirred for 2 hours at room temperature. The reaction was concentrated by rotary evaporation. The crude product was purified by reverse-phase liquid chromatography to afford the title compound. 1H NMR (d6-DMSO 300 MHz)*7.16 (m, 4H), 3.71 (m, 1H), 3.25 (m, 1H), 3.0-3.18 (m, 2H), 2.79-3.00 (m, 2H), 2.72 (m, 1H), 2.45 (m, 1H) ppm. MS calculated for C11H13N+H: 160, observed: 160.

reactant | N-tert-Butylcarbamate 1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole | 0.42 mmol, 110 mg | C(C)(C)(C)NC([O-])=O.C1C2C(CN1)C=1C=CC=CC1C2
solvent | HCl | 4.0 M, 5 mL | Cl | ClH
product | 1,2,3,3a,8,8a-Hexahydroindeno[1,2-c]pyrrole | C1C2C(CN1)C=1C=CC=CC1C2 | C11H13N
